US05030736
5,6-Dihydro-6-hydroxy-5,5-dimethyl-7-(4-nitrobenzamido)-7H-thieno[3,2-b]pyran
6-Bromo-7-hydroxy-5,6-dihydro-5,5-dimethyl-7H-thieno[3,2-b]-pyran (6.8 g, 25.8 mmol) and 4-nitrobenzamide (10.7 g, 64.5 mmol) were treated with sodium hydride 60% in oil (2.26 g, 56.8 mmol) in N,N-dimethylformamide (110 mL) using the procedure described for the preparation of 5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopyrrolidin-1-yl)-7H-thieno[3,2-b]pyran. The reaction mixture was poured into water and extracted into 10% isopropanol in dichloromethane. The solvent was evaporated in vacuo and the residue was purified by medium pressure chromatography using 2% methanol in dichloromethane as the eluant to give the product, 4.5 g (50%), as a pale yellow solid: mp 183°-186° C. dec; IR (KBr): 3398, 1664, 1644 and 1601 cm-1 ; MS: m/z 349 (MH+); 1H NMR (CDCl3): δ1.35(s, 3H), 1.50(s, 3H), 3.79(d, J=7.9 Hz, 1H), 4.26(bs, 1H, exchanges with D2O), 5.19(d, d, J=7.9 Hz, and J=7.0 Hz, 1H), 6.59(bd, J=7.0 Hz, 1H, shifts to 6.66 with D2O), 6.63(d, J=5.4 Hz, 1H), 7.18(d, J=5.4 Hz, 1H), 7.97(d, J=8.8 Hz, 2H) and 8.32(d, J=8.8 Hz, 2H).

reactant | 6-Bromo-7-hydroxy-5,6-dihydro-5,5-dimethyl-7H-thieno[3,2-b]-pyran | 25.8 mmol, 6.8 g | BrC1C(C2=C(OC1(C)C)C=CS2)O | C9H11BrO2S
reactant | 4-nitrobenzamide | 64.5 mmol, 10.7 g | [N+](=O)([O-])C1=CC=C(C(=O)N)C=C1 | C7H6N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | 5,6-dihydro-6-hydroxy-5,5-dimethyl-7-(2-oxopyrrolidin-1-yl)-7H-thieno[3,2-b]pyran | OC1C(C2=C(OC1(C)C)C=CS2)N2C(CCC2)=O | C13H17NO3S
reactant | KBr | [K+].[Br-]
solvent | N,N-dimethylformamide | 110 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 5,6-Dihydro-6-hydroxy-5,5-dimethyl-7-(4-nitrobenzamido)-7H-thieno[3,2-b]pyran | OC1C(C2=C(OC1(C)C)C=CS2)NC(C2=CC=C(C=C2)[N+](=O)[O-])=O | C16H16N2O5S
